US05210211
Ethyl 4-amino-2-butylimidazole-5-carboxylate
A mixture of methyl iminovalerate hydrochloride (4.8 g), ethyl 2-amino-2-cyanoacetate oxalate (4.0 g), anhydrous sodium acetate (9.1 g) and absolute ethanol (75 mL) was stirred at room temperature for 18 hours. Solids were removed by filtration and the filtrate was evaporated. The residue was partitioned between ethyl acetate and water. The ethyl acetate layer was washed with saturated NaCl, dried over MgSO4, and evaporated Flash chromatography on silica gel, eluting with a gradient of dichloromethane-ethyl acetate (75:25) to ethyl acetate gives the title compound (2.7 g) as a pale yellow solid, mp 103°-106° C. MS (DEI) 211 (m).

reactant | methyl iminovalerate hydrochloride | 4.8 g | Cl.N=C(C(=O)OC)CCC
reactant | ethyl 2-amino-2-cyanoacetate oxalate | 4.0 g | C(C(=O)O)(=O)O.NC(C(=O)OCC)C#N
reactant | sodium acetate | 9.1 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | Ethyl 4-amino-2-butylimidazole-5-carboxylate | 2.7 g | NC=1N=C(NC1C(=O)OCC)CCCC | C10H17N3O2
